Name:  ___                Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: NEUROLOGY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
Gait Difficulty
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
The patient is a ___ with hx of anxiety and depression here
with several weeks of progressive gait difficulty. 

Pt reports that he has had years of knee pain with going up
stairs for years and over the last several months has felt that
his right leg has been "giving out under him" when going down
steps every once and a while. However, these changes had never
caused him significant functional problems and he was able to
maintain his normal degree of activity. 

Over the last two weeks however, he has had progressive
difficulty with walking due to both of his knees giving out, 
both
of his legs shaking and "having a mind of their own", and
unsteadiness with walking that has lead to several falls. He has
even needed to purchase a walker and now requires this to walk.
He is unable to walk as far as he usually is also due to
shortness of breath which he attributes to needing to hold and
shift the walker as he walks. He has also noted 
numbness/tingling
at the bottoms of his feet also present over the last 2 weeks. 

He denies any abrupt onset of his difficulties. 

He is able to manage without the walker in his small apartment,
but only when his shoes are off and by holding on to furniture. 

On neurologic review of systems, the patient denies headache,
lightheadedness. Denies difficulty with producing or
comprehending speech. Denies loss of vision, blurred vision,
diplopia, vertigo, dysarthria, or dysphagia. Denies focal muscle
weakness, numbness, parasthesia. Denies bowel or bladder
incontinence or retention. 

On general review of systems, the pt denies recent fever or
chills.  No night sweats or recent weight loss or gain. Denies
cough, shortness of breath.  Denies nausea, vomiting, diarrhea,
or abdominal pain.  No recent change in bowel or bladder habits. 

No dysuria.  Denies arthralgias or myalgias. 

 
Past Medical History:
Anxiety
Depression
L finger surgery from trauma
 
Social History:
___
Family History:
Father's side - many members with CAD and MI
Mother's side - many members with DM
No neurologic conditions that he knows of.      
 
Physical Exam:
=== ADMISSION EXAM === 
PHYSICAL EXAMINATION
Vitals: 98.2F, HR 90, 153/68, RR 16, 98% on RA
General: Awake, cooperative, NAD.
HEENT: NC/AT, no scleral icterus noted, MMM, no lesions noted in
oropharynx
Neck: Supple
Pulmonary: Lungs CTA bilaterally without R/R/W
Cardiac: RRR, nl. S1S2, no M/R/G noted
Abdomen: soft, NT/ND
Extremities: No ___ edema. Pt notes that he feels that his b/l
quad muscle bulk has decreased compared to prior. 

Neurologic:
-Mental Status: Alert, oriented to month, ___, year, but not
actual date - cannot remember since he has been laid off. Able 
to
relate history without difficulty. Attentive, able to name ___
backward without difficulty. Language is fluent with intact
repetition and comprehension. Normal prosody. There were no
paraphasic errors. Pt was able to name both high and low
frequency objects.  Able to read without difficulty. Speech was
not dysarthric. Had to try twice for three step command. Pt was
able to register 3 objects and recall ___ at 5 minutes, ___ with
category cue. There was no evidence of apraxia or neglect.

-Cranial Nerves:
II, III, IV, VI:  PERRL 3 to 2mm and brisk. EOMI without
nystagmus. ?Breakdown of smooth pursuit. Normal saccades.
Difficulty with visual field exam - had to look at fingers in
periphery in order to count - had lost his prescription glasses
and was using drugstore glasses. Fields intact to finger wiggle.
When tested fields with red tip of reflex hammer, he could not
see the redness until it was quite central in all directions -
?b/l tunnel vision. 
V: Facial sensation intact to light touch.
VII: No facial droop, facial musculature symmetric.
VIII: Hearing slightly decreased on right compared to left on
finger rub. 
IX, X: Palate elevates symmetrically.
XI: ___ strength in trapezii and SCM bilaterally.
XII: Tongue protrudes in midline.

-Motor: Normal tone in UE at rest. Increased tone in ___ with
spasticity. No pronator drift bilaterally.
+both postural and action tremor. No rest tremor. 
  Delt Bic Tri WrE FFl FE IO IP Quad Ham TA ___
L  5    ___   ___  5   5    5  5     5     5   5
R  5    ___   ___  5   5    5  5     5     5   5

-Sensory: No deficits to light touch. Pinprick was felt
everywhere but possibly mildly decreased over medial leg.
Vibratory sense was 11sec in R toe and 13 sec in L toe.
Proprioception was affected in b/l UE both with testing of small
joint position in fingers as well as with touching his nose with
eyes closed. He also had difficulty with joint position in b/l
great toes somewhat improved in ankle better with larger
movements than smaller movements. No extinction to DSS.

-DTRs:
  Bi Tri ___ Pat Ach
L  3  3    3    3   1
R  3  3    3    3   1
Plantar response was flexor on left and mute on the right. No
clonus at ankles. +Crossed adductors b/l. +pectoral jerks
bilaterally. +Hoffmans on the L. 

-Coordination: Both postural and action tremor in UE that makes
interpreting finger/nose/finger difficult but he does seem to
overshoot several times when testing mirroring. Very dysmetric
b/l with heel/knee/shin - pt has more subjective difficulty with
right compared to left but it appears grossly dysmetric
bilaterally. 

-Gait: Has much difficulty getting up out of bed independently
that is out of proportion to strength exam. He does not appear 
to
have truncal ataxia on testing. When standing, broad based and
shuffles forward. Looks very unsteady when standing and walking
several steps with walker and I did not feel comfortable testing
romberg. 

=== DISCHARGE EXAM ===

***** ENTER TODAY'S EXAM ***

 
Pertinent Results:
=== LABS ===

___ 10:32AM BLOOD WBC-6.6 RBC-4.61 Hgb-13.6* Hct-41.4 
MCV-90 MCH-29.5 MCHC-32.9 RDW-13.0 RDWSD-42.5 Plt ___
___ 03:00PM BLOOD Neuts-72.3* Lymphs-17.6* Monos-9.0 
Eos-0.4* Baso-0.4 Im ___ AbsNeut-5.03 AbsLymp-1.23 
AbsMono-0.63 AbsEos-0.03* AbsBaso-0.03
___ 03:00PM BLOOD ___ PTT-30.6 ___
___ 03:00PM BLOOD Plt ___
___ 07:03AM BLOOD Glucose-97 UreaN-20 Creat-1.0 Na-137 
K-4.0 Cl-103 HCO3-22 AnGap-16
___ 10:32AM BLOOD Glucose-133* UreaN-18 Creat-0.9 Na-135 
K-4.0 Cl-100 HCO3-23 AnGap-16
___ 03:00PM BLOOD ALT-22 AST-50* AlkPhos-125 TotBili-0.4
___ 07:03AM BLOOD ALT-22 AST-25
___ 04:45PM BLOOD ALT-23 AST-24
___ 10:32AM BLOOD ALT-24 AST-24 AlkPhos-143* TotBili-0.4
___ 07:03AM BLOOD GGT-20
___ 04:45PM BLOOD GGT-21
___ 03:00PM BLOOD Albumin-3.8 Calcium-8.6 Phos-3.3 Mg-2.1
___ 10:32AM BLOOD Calcium-8.7 Phos-2.5* Mg-2.0
___ 07:03AM BLOOD VitB12-346 Folate-9.9
___ 07:03AM BLOOD TSH-5.4*
___ 10:32AM BLOOD T4-5.8 T3-93
___ 03:00PM BLOOD ASA-NEG Ethanol-NEG Acetmnp-NEG 
Bnzodzp-NEG Barbitr-NEG Tricycl-NEG
___ 07:04PM URINE Blood-NEG Nitrite-NEG Protein-NEG 
Glucose-150 Ketone-NEG Bilirub-NEG Urobiln-NEG pH-6.0 Leuks-TR
 
Brief Hospital Course:
___ man with history of depression and anxiety admitted for 
worsening gait difficulty, in the setting of recently starting 
bupropion in addition to previous Doxepin (TCA) and fluoxetine 
(SSRI). His exam was significant for upper and lower extremity 
ataxia, tremor, saccadic intrusions, and diffuse hyperreflexia 
including jaw jerk and ___. His labs have been mostly 
normal thus far (normal B12 and folate, T3/T4 wnl, pending B1 
and B6) with only mild elevation in AST that resolved on day 
two, and mild elevation in AP. His symptoms and history were 
consistent with serotonin syndrome, triggered by the recent 
addition of bupropion, and his outpatient psychiatrist informed 
us that he was no longer supposed to be taking Doxepin. His 
symptoms clearly began to improve 1 day after discontinuation of 
all psychiatric medications (except clonazepam). The treatment 
for serotonin syndrome is continued holding of doxepin, 
fluoxetine, and bupropion, with close follow-up (from rehab) 
with his psychiatrist within the next week to slowly re-initiate 
appropriate medications. 
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Doxepin HCl 50 mg PO DAILY 
2. FLUoxetine 60 mg PO DAILY 
3. ClonazePAM 0.5 mg PO DAILY 
4. BuPROPion (Sustained Release) 200 mg PO DAILY 

 
Discharge Medications:
1. Clonazepam 0.5 mg PO DAILY
 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
Serotonin Syndrome

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - requires assistance or aid (walker 
or cane).

 
Discharge Instructions:
Mr. ___, 
You were admitted to the hospital for symptoms of difficulty 
walking and tremors. These symptoms were found to be the result 
of too many anti-depressant medications resulting in something 
called "Serotonin Syndrome" caused by an excess of serotonin. 
When mild, this causes elevated heart rate, muscle 
jerking/tremor, overresponsive reflexes, and other symptoms. 
Other symptoms can include confusion, hallucinations, sweating, 
nausea, and diarrhea. Not all symptoms may always be present. 
The improvement in your symptoms after stopping these 
medications indicates this as the likely diagnosis. Treatment is 
to stop all offending medications for a period of time before 
restarting some slowly. We discussed this with your psychiatrist 
who informed us you were not supposed to be taking the Doxepin 
any longer. Your psychiatrist agrees with this plan, and would 
like to see you very soon in their office. 

- STOP Doxepin
- STOP Prozac
- STOP Wellbutrin

Follow-up with your psychiatrist from the rehabilitation 
facility. 

It was a pleasure taking care of you! 

Thank you, 
Your ___ Neurology Team
 
Followup Instructions:
___